US04731470
2,3-Dichloro-4-(5-chloropentanoyl)anisole (29.5 g, 0.1 mole) and N,N,N',N'-tetramethyldiaminomethane (25.5 g, 0.249 mole) were stirred and heated at 50° C. and then acetic anhydride (36.8 g, 0.36 mole) was added dropwise with stirring at such a rate that the temperature rose to 100° C. After heating at 95° C. for an additional 2 hours, the mixture was kept at ambient temperature for 15 hours, poured into crushed ice (400 g), strongly basified with 10 normal sodium hydroxide and extracted with ether. The ether extract was dried over Na2SO4 and the solvent removed in vacuo to give 2-(dimethylaminomethyl)-5-chloro-1-(2,3-dichloro-4-methoxyphenyl)-1-pentanone as a viscous oil.

reactant | 2,3-Dichloro-4-(5-chloropentanoyl)anisole | 0.1 mole, 29.5 g | ClC1=C(C=CC(=C1Cl)C(CCCCCl)=O)OC | C12H13Cl3O2
reactant | N,N,N',N'-tetramethyldiaminomethane | 0.249 mole, 25.5 g | CN(C)CN(C)C | C5H14N2
reactant | acetic anhydride | 0.36 mole, 36.8 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(dimethylaminomethyl)-5-chloro-1-(2,3-dichloro-4-methoxyphenyl)-1-pentanone | CN(C)CC(C(=O)C1=C(C(=C(C=C1)OC)Cl)Cl)CCCCl | C15H20Cl3NO2
